US04665090
Step B: Preparation of 5-(2-thienyl)pentanoic acid
4-(2-thenoyl)butyric acid (9.2 g) was dissolved in 60 ml of diethylene glycol and 30 ml of hydrazine hydrate added. After heating the mixture to 120° C. gradual addition of potassium hydroxide (13.6 g) was begun. Low boiling components were distilled out of the reaction mixture until the reaction mixture temperature reached 210° C. After cooling to room temperature water was added to the reaction mixture followed by 6N hydrochloric acid. This mixture was extracted with benzene, the benzene dried over sodium sulfate, filtered through a pad of charcoal, and concentrated under vacuum. A solid residue was obtained after trituration with ligroine, cooling and scratching. Yield 5.5 g. N.M.R. (CDCl3)δ1.76 (m, 4H), 2.42 (m, 2H), 2.88 (m, 2H), 6.80 (m, 1H), 6.90 (m, 1H), 7.12 (m, 1H).

reactant | 4-(2-thenoyl)butyric acid | 9.2 g | C1(=CC=CS1)C(=O)CCCC(=O)O | C9H10O3S
reactant | hydrazine hydrate | 30 ml | O.NN
reactant | potassium hydroxide | 13.6 g | [OH-].[K+]
solvent | diethylene glycol | 60 ml | C(COCCO)O | C4H10O3
product | 5-(2-thienyl)pentanoic acid | S1C(=CC=C1)CCCCC(=O)O | C9H12O2S
